US04440941
B. 2-Acetylthio-3-methylbenzoic acid
2-Mercapto-3-methylbenzoic acid (9.0 g, 54 mmol), acetic anhydride (6.5 g, 63 mmol) and glacial acetic acid (25 ml) were refluxed 1 hour, then poured into dilute hydrochloric acid. The product was filtered and recrystallized from toluene.

reactant | 2-Mercapto-3-methylbenzoic acid | 54 mmol, 9.0 g | SC1=C(C(=O)O)C=CC=C1C | C8H8O2S
reactant | acetic anhydride | 63 mmol, 6.5 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | hydrochloric acid | Cl | ClH
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
product | 2-Acetylthio-3-methylbenzoic acid | C(C)(=O)SC1=C(C(=O)O)C=CC=C1C | C10H10O3S
